US08106045B2
Methanesulfonyl chloride (50 g, 436 mmol) was added to a solution of 2-bromo-1-(4-hydroxyphenyl)-ethan-1-one (85 g, 395 mmol) and triethylamine (48 g, 474 mmol in tetrahydrofuran (1000 ml) at 0° C. and the mixture was stirred for 30 minutes at room temperature. The mixture was partitioned between water and ethyl acetate, and the organic layer was washed with brine, dried over magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was washed with diisopropyl ether to afford 4-(2-bromoacetyl)phenyl methanesulfonate (96 g, 83%) as white crystals.

reactant | Methanesulfonyl chloride | 436 mmol, 50 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2-bromo-1-(4-hydroxyphenyl)-ethan-1-one | 395 mmol, 85 g | BrCC(=O)C1=CC=C(C=C1)O | C8H7BrO2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 1000 ml | O1CCCC1 | C4H8O
product | 4-(2-bromoacetyl)phenyl methanesulfonate | 96 g, 83% | CS(=O)(=O)OC1=CC=C(C=C1)C(CBr)=O | C9H9BrO4S
